US08106194B2
8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-methylsulfanyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile (5.70 g) was added into conc. H2SO4 (100 mL) and heated for 60° C. for 5 hours. The reaction mixture was cooled to room temperature, poured into ice-water and then 10% aqueous NaOH solution was added to make the aqueous mixture alkaline (pH=8) and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: ethyl acetate) to give 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-methylsulfanyl-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide (3.12 g).

reactant | 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-methylsulfanyl-pyrrolo[1,2-a]pyrimidine-6-carbonitrile | 5.70 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2SC)C)C#N)C | C18H16BrN3S
reactant | NaOH | [OH-].[Na+]
solvent | H2SO4 | 100 mL | OS(=O)(=O)O | H2O4S
product | 8-(4-bromo-2,6-dimethyl-phenyl)-2-methyl-4-methylsulfanyl-pyrrolo[1,2-a]pyrimidine-6-carboxylic acid amide | 3.12 g | BrC1=CC(=C(C(=C1)C)C=1C=C(N2C1N=C(C=C2SC)C)C(=O)N)C | C18H18BrN3OS
